US07279478B2
Step 1 methyl (2S)-4-methyl-2-{[(R)-phenyl(4-quinolin-3-ylphenyl)methyl]oxy}pentanoate
Using the same procedure as described for example 36 step 2, methyl (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-4-methylpentanoate (2.05 g, 5.25 mmol) and 3-quinolineboronic acid (1.0 g, 5.78 mmol) were coupled to give the title compound as an oil.

reactant | methyl (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-4-methylpentanoate | 5.25 mmol, 2.05 g | BrC1=CC=C(C=C1)[C@H](O[C@H](C(=O)OC)CC(C)C)C1=CC=CC=C1 | C20H23BrO3
reactant | 3-quinolineboronic acid | 5.78 mmol, 1.0 g | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
product | methyl (2S)-4-methyl-2-{[(R)-phenyl(4-quinolin-3-ylphenyl)methyl]oxy}pentanoate | CC(C[C@@H](C(=O)OC)O[C@@H](C1=CC=C(C=C1)C=1C=NC2=CC=CC=C2C1)C1=CC=CC=C1)C | C29H29NO3
